US04685960
Preparation of n-Dodecyl 2-[4-(5-Trifluoromethyl-2-Pyridinyloxy) Phenoxy]Propanoate
n-Dodecanol(2.5 grams; 0.134mol), toluene (80 ml) and triethylamine (5 ml) were placed into a 300 ml, 3-necked glass reaction flask equipped with stirrer, thermometer, reflux condenser, and nitrogen line. 2-[4-(5-trifluoromethyl-2-pyridinyloxy)phenoxy]propanoic acid chloride (4.45 grams; 0.0125 mol) in toluene (30 ml) was added dropwise to the reaction mixture with stirring at a temperature of about 10° C. The temperature of the reaction mixture was allowed to rise to room temperature and stirred overnight.

reactant | n-Dodecanol | 0.134mol, 2.5 grams | C(CCCCCCCCCCC)O | C12H26O
reactant | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
reactant | 2-[4-(5-trifluoromethyl-2-pyridinyloxy)phenoxy]propanoic acid chloride | 0.0125 mol, 4.45 grams | FC(C=1C=CC(=NC1)OC1=CC=C(OC(C(=O)Cl)C)C=C1)(F)F | C15H11ClF3NO3
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
product | n-Dodecyl 2-[4-(5-Trifluoromethyl-2-Pyridinyloxy) Phenoxy]Propanoate | FC(C=1C=CC(=NC1)OC1=CC=C(OC(C(=O)OCCCCCCCCCCCC)C)C=C1)(F)F | C27H36F3NO4
